US09376441B2
7-bromo-4,4-dimethyl-3,4-dihydroquinolin-2(1H)-one (210 mg, 0.83 mmol) and K2CO3 (335 mg, 2.42 mmol) were taken up in DMF (5 mL). Iodomethane (0.15 mL, 2.4 mmol) was added and the resulting mixture was stirred for 18 h. Water was added, and the resulting solids were filtered and washed with additional water to provide crude 7-bromo-1,4,4-trimethyl-3,4-dihydroquinolin-2(1H)-one that was used without further purification.

reactant | 7-bromo-4,4-dimethyl-3,4-dihydroquinolin-2(1H)-one | 0.83 mmol, 210 mg | BrC1=CC=C2C(CC(NC2=C1)=O)(C)C | C11H12BrNO
reactant | K2CO3 | 2.42 mmol, 335 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Iodomethane | 2.4 mmol, 0.15 mL | IC | CH3I
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-bromo-1,4,4-trimethyl-3,4-dihydroquinolin-2(1H)-one | BrC1=CC=C2C(CC(N(C2=C1)C)=O)(C)C | C12H14BrNO
